data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2720,"CC(CC1CCCC1)C[C:1](=[O:2])[Cl+:3][Al-]([Cl])([Cl])[Cl]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6826,"N#[C:1][H:2].NC1=NC(O)([NH2:3])NC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2778,"[CH3:1][I:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3251,"CC1=CC=C[C:1]([H:2])=[C:3]1[I:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6937,"CCN1CCC23C4=C5C=CC(OC)=C4OC2C(=[O+:1][H:2])CCC3C1C5.CC[N:3]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CO.CS(=O)(=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2164,"CO[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,9318,"CCC1CCC(C)C1[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8862,"[CH3][Sn]([CH3])([CH3])[C]1=C([CH:1]=[O:2])C=CC=C1.[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7190,"COC1=C(OC)C=C(C23CCC(=O)CC2OC([O-])([NH+:1](C)[H:2])C3)C=C1.C[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7025,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCOC(=O)C1=C2C=CC=CC(OCC)=C2C=C1C1=C(C)OC(C2=CC=C(OC)C=C2)([OH:3])C1.CN(C)C=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2627,"C[C:1]1=[S+:2]CCCS1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6180,"CC[CH:1]=[N+:2](C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1.C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5826,"CP(C)(=O)[CH2:1][H:2].CS(=O)[CH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3310,"CC(C)[O-:1].COC1=CC2=C(C=C1)C1CC(=O)[C:2]3([H:3])CCC[C:4]3=[N+:5]1CC2.O.O=C(O)C(F)(F)F|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9509,"C=C(OC(C)(C)C)O[Si](C)(C)C.CCC(C=[O:1])CC1CCCCC1.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9556,"CCCC(CCC)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9834,"C[C:1](Br)([H:2])[CH:3](C)[Br:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7715,"C[CH:1]([NH:2]C)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1312,"CCC(=O)[O:1][C:2](CC)(N(C1=CC=CC=C1)C1(C(=O)OC)CCN(CCC2=CC=CC=C2)CC1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3857,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=CC=CC=C21.CC(=O)[O-].C[Si](C)(C)CCSC(=CC=C(C[OH:2])SCC[Si](C)(C)C)CO|(2, 1)"
train,pmechdb_split_0,0,1968,"CC(C)CCCCC(O)C(OC1=CC=CC=C1)C(=O)[O:1][H:2].CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9484,"CC(=O)O.CCOC(=O)[CH:1]=[C:2](COC)[NH2:3].CCOC(C)=O.O=C1C=C[C:4](=[O:5])[CH:6]=[CH:7]1|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4829,"C1CCC2=[NH+]CCCN2CC1.CC=C[C:1](O)=[C:2]1N2C(=N[N:3]1C1=C(F)C(F)=C(F)C(F)=C1F)COC1CC3=C(C=CC=C3)C12.F[B-](F)(F)F.O=C(C1=CC=CC=C1)[C:4](=[CH:5]C1=CC=CC=C1)[C:6](C1=CC=CC=C1)=[O:7]|(3, 2);((2, 1), 5);((5, 4), 6);((6, 7), 7)"
train,pmechdb_split_0,0,1935,"COC1=C(OC)C=C(C23CCC(=O)CC2O[C:1](=[O:2])C3)C=C1.C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,823,"ClC1=CC=C(C(C(Cl)(Cl)Cl)[C:1]2([H:2])C=CC(Cl)=C[CH+:3]2)C=C1.O.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,134,"CCCC.CC[C:1](Cl)=[O:2].O=C1OCC(CC2=CC=CC=C2)[N-:3]1.[Li+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4210,"CC(=O)O.CC(=O)[O-:1].CC1CC(O)(C(SC2=CC=CC=C2)[OH+:2][H:3])C(C)(CCCO[Si](C)(C)C(C)(C)C)C=C1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C.[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9626,"CC1=CC=C(S(=O)(=O)N2CC(C)C3CC[CH:1]([Br:2])C(C#N)([O-:3])C32)C=C1.C[OH+][K]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4831,"C[S+:1](Cl)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,990,"CC1=C2C3=CC(C=[O:1])=CC=C3N(C)C2=C(C)C2=C1C=NC=C2.O=S(=O)(O)[O:2][H:3].OO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1067,"COC1=C2C(=CC=C1)C1=CC=CC=C1N2C(CO[S:1](=O)(C(F)(F)F)([N+:2]1=CC=CC=C1)[O-:3])C1=CC=CC=C1.O=S(=O)(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2929,"CC(NC(=O)CNC(=O)C(C)[NH2+:1][C:2](=O)[O-:3])C(=O)O.C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8504,"CCC[NH:1]CCC.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4070,"C1=CC=C([C:1](C2=CC=CC=C2)=[O:2])C=C1.C[O-].[Br][Mg:3][C:4]1=CC=CC=C1.[Mg+][Br]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,111,"C1=CC=C([P+]2(C3=CC=CC=C3)CCC[CH:1]2[H:2])C=C1.CC(C)(C)[O-:3].O=C(C1=CC=CC=C1)C1=CCCC1.[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1391,"CC1CCCCC1(N1CCCC1)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2255,"COC1=C2OC3C45CCN(C)C(CC(=C24)C=C1)C5(O)CC[C:1]3([NH:2]N)[OH:3].O.OCCOCCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8525,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)O[I+:1]1([O:2][CH:3](C(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[H:4])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,525,"CCSCCC(N)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1220,"CC(=O)[O-].CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CCC3(C)CCC[CH:3]=[C:4]3C2)C=C1.CO|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,481,"C[N:1](C)[C:2]1([OH2+:3])OCCCO1|(1, 2);((2, 3), 3)"
